US05087764
Preparation of 3-pentyl-1,2-difluorobenzene
0.1 mol of pentyl bromide and subsequently 13 ml of DMPU are added dropwise to the solution of 1,2-difluorophenyl potassium in THF prepared according to 1c). After stirring below -85° C. for 60 minutes, the mixture is warmed in the course of 30 minutes to -40° C. and water is added at this temperature. The mixture is subsequently worked up as customary. b.p.30: 112 ° C. The following are prepared analogously:

reactant | pentyl bromide | 0.1 mol | C(CCCC)Br | C5H11Br
reactant | DMPU | 13 ml | CN1CCCN(C1=O)C | C6H12N2O
reactant | 1,2-difluorophenyl potassium | FC1(C(C=CC=C1)F)[K]
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3-pentyl-1,2-difluorobenzene | C(CCCC)C=1C(=C(C=CC1)F)F | C11H14F2
